US07227023B2
N-[3-(5-fluoro-1H-indol-3-yl)propyl]-N-propyl-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine (“Compound 2”)
To N-[3-(5-fluoro-1H-indol-3-yl)propyl]-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine (example 21) (0.13 g, 0.34 mmol) in anhydrous methanol (20 mL), was added propionaldehyde (0.25 mL, 3.4 mmol), acetic acid (0.2 ml, 0.34 mmol) and sodium cyanoborohydride (0.041 g, 0.65 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was quenched with 1N NaOH, and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. Chromatography (5% MeOH/CH2Cl2) afforded 0.11 g (77%) of product as a clear oil. It was converted to the HCl salt by dissolution in ethyl acetate and addition of 1M HCl/Et2O (2.4 eq) to generate N-[3-(5-fluoro-1H-indol-3-yl)propyl]-N-propyl-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine bis-hydrochloride salt as a light yellow solid: mp>148° C. MS ESI m/z 416 [M−H]−. Elemental Analysis for C26H28FN3O·2.00 HCl; Calculated: C, 63.67; H, 6.17; N, 8.57. Found: C, 63.97; H, 6.48; N, 8.28.

reactant | HCl | Cl | ClH
reactant | HCl Et2O | 1M, 2.4 eq | Cl.CCOCC
reactant | N-[3-(5-fluoro-1H-indol-3-yl)propyl]-N-propyl-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine bis-hydrochloride salt | Cl.Cl.FC=1C=C2C(=CNC2=CC1)CCCN(C1CC2=C3C=CC=NC3=CC=C2OC1)CCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-(5-fluoro-1H-indol-3-yl)propyl]-N-propyl-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine | FC=1C=C2C(=CNC2=CC1)CCCN(C1CC2=C3C=CC=NC3=CC=C2OC1)CCC | C26H28FN3O
